US04440785
3-Methylthio-7-phenylindolin-2-one
A solution of 25.5 g. (0.15 mole) of 2-aminobiphenyl in 450 ml. of methylene chloride was cooled to -65° C. and treated with 20.1 g. (0.15 mole) of ethyl 2-methylthioacetate. Immediately 16.7 g. (0.155 mole) of t-butylhypochlorite was added dropwise over a 15 min. period while the temperature was maintained at -65° C. The reaction mixture was stirred at -65° C. for 1.5 hr., 15.5 g. (0.155 mole) of triethylamine was added, and the mixture was allowed to warm to ambient temperature. The solution was washed with two 100 ml. portions of water and then concentrated. The residue was mixed with 200 ml. of methanol, the mixture heated to reflux, 40 ml. of 3 N hydrochloric acid was added and the mixture refluxed overnight. The solution was cooled and the resulting solid was collected by filtration, washed with methanol and recrystallized from benzene to yield 25.3 g. (66%) of product as tan needles, m.p. 164°-6° C.

reactant | 2-aminobiphenyl | 0.15 mole | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | ethyl 2-methylthioacetate | 0.15 mole | CCC(=S)OCC | C5H10OS
reactant | t-butylhypochlorite | 0.155 mole | C(C)(C)(C)OCl | C4H9ClO
reactant | triethylamine | 0.155 mole | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Methylthio-7-phenylindolin-2-one | CSC1C(NC2=C(C=CC=C12)C1=CC=CC=C1)=O | C15H13NOS
